US07897607B2
5-(2,4-Dimethylphenyl)-3-methyl-1-(1-propylbutyl)quinolin-4(1H)-one
3 Bromo-5-(2,4-dimethylphenyl)-1-(1-propylbutyl)quinolin-4(1H)-one was then charged with methylboronic acid (0.19 g, 3.2 mmol), potassium carbonate (0.22 g, 1.6 mmol), tetrakis(triphenylphosphine)palladium(0) (0.18 g, 0.16 mmol) and diluted with dioxane (8 mL) under nitrogen gas. Water (29 μL, 1.6 mmol) was added last. The reaction was stirred at 90° C. overnight. The solution was cooled and concentrated. Flash chromatography (40% ethyl acetate/hexanes) gave 0.049 g (43% yield) of the title compound as a white solid.

reactant | Bromo-5-(2,4-dimethylphenyl)-1-(1-propylbutyl)quinolin-4(1H)-one | BrC=1N(C2=CC=CC(=C2C(C1)=O)C1=C(C=C(C=C1)C)C)C(CCC)CCC | C24H28BrNO
reactant | methylboronic acid | 3.2 mmol, 0.19 g | CB(O)O | CH5BO2
reactant | potassium carbonate | 1.6 mmol, 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 1.6 mmol, 29 μL | O | H2O
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.16 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2,4-Dimethylphenyl)-3-methyl-1-(1-propylbutyl)quinolin-4(1H)-one | 0.049 g, 43% yield | CC1=C(C=CC(=C1)C)C1=C2C(C(=CN(C2=CC=C1)C(CCC)CCC)C)=O | C25H31NO
